US04384116
4-[3-(p-tert.amyl-phenyl)-2-methyl-propyl]-2,6-dimethyl-morpholine, b.p. 136°-138° C./0.04 Torr is prepared from 4-(2-methyl-3-phenyl-propyl)-2,6-dimethyl-morpholine and 2-methyl-2-butanol.

reactant | 4-(2-methyl-3-phenyl-propyl)-2,6-dimethyl-morpholine | CC(CN1CC(OC(C1)C)C)CC1=CC=CC=C1 | C16H25NO
reactant | 2-methyl-2-butanol | CC(C)(CC)O | C5H12O
product | 4-[3-(p-tert.amyl-phenyl)-2-methyl-propyl]-2,6-dimethyl-morpholine | C(C)(C)(CC)C1=CC=C(C=C1)CC(CN1CC(OC(C1)C)C)C | C21H35NO
